US09163008B2
To a solution of 2,6-dichloropyrimidine-4-carbonyl chloride (26.13 g, 123.6 mmol) in Et2O (500 mL) was added a mixture of 0.5M ammonia in dioxane (250 mL, 125 mmol) and iPr2NEt (22 mL, 126 mmol) dropwise over approximately 50 minutes. After stirring overnight the reaction was concentrated in vacuo to a residue and chromatographed over silica gel with 10-50% EtOAc in hexanes. The product fractions were evaporated in vacuo, and the resulting solid residue triturated with 10 mL 10% EtOAc/hexanes and filtered to give 2,6-dichloropyrimidine-4-carboxamide as an orange crystalline solid (9.743 g, 50.74 mmol, 41% yield). LC/MS: m/z=192.2 [M+H]+, 1H NMR (400 MHz, DMSO-d6): 8.40 (1H, br s), 8.16 (1H, br s), 8.10 (1H, s).

reactant | 2,6-dichloropyrimidine-4-carbonyl chloride | 123.6 mmol, 26.13 g | ClC1=NC(=CC(=N1)C(=O)Cl)Cl | C5HCl3N2O
reactant | ammonia | 0.5M | N | H3N
reactant | dioxane | 125 mmol, 250 mL | O1CCOCC1 | C4H8O2
reactant | iPr2NEt | 126 mmol, 22 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | Et2O | 500 mL | CCOCC | C4H10O
product | 2,6-dichloropyrimidine-4-carboxamide | 50.74 mmol, 9.743 g, 41% yield | ClC1=NC(=CC(=N1)C(=O)N)Cl | C5H3Cl2N3O
